US07572820B2
To a stirred solution of 4-amino-3-methyl-2-(trifluoromethyl)benzonitrile (3.59 g, 17.9 mmol) in toluene (80 mL) was added benzophenone (3.59 g, 19.7 mmol) followed by PTSA monohydrate (0.035 g, 0.18 mmol). The reaction flask was fitted with a Dean-Stark trap and heated at reflux for 7 d. The reaction was concentrated and purified by SiO2 chromatography (5% EtOAc in hexanes) to afford 4-[(diphenylmethylidene)amino]-3-methyl-2-(trifluoromethyl)benzonitrile (5.16 g, 79%) as a yellow solid: 1H NMR (400 MHz, DMSO-d6): δ 7.71-7.01 (m, 10H), 7.65 (d, J=8.4 Hz, 1H), 6.95 (d, J=8.4 Hz, 1H), 2.30 (s, 3H).

reactant | 4-amino-3-methyl-2-(trifluoromethyl)benzonitrile | 17.9 mmol, 3.59 g | NC1=C(C(=C(C#N)C=C1)C(F)(F)F)C | C9H7F3N2
reactant | benzophenone | 19.7 mmol, 3.59 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(diphenylmethylidene)amino]-3-methyl-2-(trifluoromethyl)benzonitrile | 5.16 g, 79% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=C(C(=C(C#N)C=C1)C(F)(F)F)C | C22H15F3N2
